US04041156
To a solution of 3.00 of NG -nitro-N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-cyclohexylglycine benzyl ester in 50 ml of ethanol and 0.5 ml of acetic acid was added 0.5 g of palladium-black and then the mixture was shaken in a hydrogen atmosphere for 100 hours at room temperature. At the end of this period, the ethanol solution was filtred to remove the catalyst and evaporated to dryness. The residue was washed several times with dry diethyl ether and chromatographed on 80 ml of Daiaion SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with water and eluted with 3% ammonium hydroxide solution. The fraction eluted from 3% ammonium hydroxide solution was evaporated to dryness to give 1.65 g (68%) of N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-cyclohexylglycine as an amorphous solid.

reactant | nitro-N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-cyclohexylglycine benzyl ester | C(C1=CC=CC=C1)OC(CN(C1CCCCC1)C([C@@H](N(S(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)[N+](=O)[O-])CCCNC(N)=N)=O)=O | C33H42N6O9S
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-black | 0.5 g | [Pd] | Pd
product | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-cyclohexylglycine | 1.65 g, 68% | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)C1CCCCC1 | InChI=1S/C26H37N5O7S.N2/c1-37-22-14-17-10-11-20(13-18(17)15-23(22)38-2)39(35,36)30-21(9-6-12-29-26(27)28)25(34)31(16-24(32)33)19-7-4-3-5-8-19;1-2/h10-11,13-15,19,21,30H,3-9,12,16H2,1-2H3,(H,32,33)(H4,27,28,29);/t21-;/m0./s1
